US05229516
B. 1-[(4-Chlorophenyl)methyl]-2-methyl-5-(2-benzothiazolylmethoxy)-1H-indole-3-acetic acid
The title compound is prepared according to the method of Example 16 using 2-methyl-5-(2-benzothiazolylmethoxy)-1H-indole-3-acetic acid ethyl ester and 4-chlorobenzyl chloride; however, the hydrolysis is carried out in aqueous methanol. Recrystallization from acetonitrile affords white crystals, m.p. 175°-176° C.

reactant | 2-methyl-5-(2-benzothiazolylmethoxy)-1H-indole-3-acetic acid ethyl ester | C(C)OC(CC1=C(NC2=CC=C(C=C12)OCC=1SC2=C(N1)C=CC=C2)C)=O | C21H20N2O3S
reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | methanol | CO | CH4O
product | 1-[(4-Chlorophenyl)methyl]-2-methyl-5-(2-benzothiazolylmethoxy)-1H-indole-3-acetic acid | ClC1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)OCC=1SC2=C(N1)C=CC=C2)CC(=O)O)C | C26H21ClN2O3S
